US04948688
Bis(p-nitrophenyl)-p-chlorophenylamine (3.70 grams, 0.010 mol) obtained by the Ullmann condensation of p-chloroaniline and p-nitroiodobenzene was mixed with 125 ml of N,N-dimethylformamide and 2,50 grams (0.045 mol) of iron powder, and dilute hydrochloric acid prepared using 1.5 ml of concentrated hydrochloric acid and 4 ml of water was added to the mixture which was then reacted for 1 hour at 100° C. The mixture was then neutralized by the addition of a saturated aqueous solution of sodium carbonate and the resulting mixture was filtered while hot. The filtrate was poured into 1.5 liters of ice water and 2.33 grams (yield 69%) of p-aminophenyl-p-nitrophenyl-p-chlorophenylamine was obtained on recovering the material which precipitated out by filtration.

reactant | p-chloroaniline | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | p-nitroiodobenzene | [N+](=O)([O-])C1=CC=C(C=C1)I | C6H4INO2
product | Bis(p-nitrophenyl)-p-chlorophenylamine | 0.010 mol, 3.70 grams | [N+](=O)([O-])C1=CC=C(C=C1)N(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)[N+](=O)[O-] | C18H12ClN3O4
